US08633200B2
To a stirred solution of (S)-methyl 2-(7-chloro-5-methyl-2-(5,6,7,8-tetrahydronaphthalen-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate (888 mg, 2.301 mmol) in CH2Cl2 (45 mL) and t-butyl acetate (21.76 mL, 161 mmol) at rt was added perchloric acid (0.593 mL, 6.90 mmol). After 2.5 h, the reaction mixture was diluted with CH2Cl2 (50 mL), carefully quenched with sat. NaHCO3 (50 mL), organic layer separated and washed with brine (100 mL), dried (Na2SO4), filtered and concentrated to give yellow liquid. This was purified by flash column chromatography on silica gel column using (10-40% EtOAc/Hex as eluant) to afford the desired (S)-methyl 2-(tert-butoxy)-2-(7-chloro-5-methyl-2-(5,6,7,8-tetrahydronaphthalen-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetate (735 mg, 1.663 mmol, 72.3% yield) as white solid. 150 mg of starting material was also recovered. 1H NMR (500 MHz, CDCl3) δ: 7.76-7.70 (m, 2H), 7.18 (d, J=7.9 Hz, 1H), 6.91 (s, 1H), 5.68 (s, 1H), 3.76 (s, 3H), 2.89-2.84 (m, 4H), 2.68 (s, 3H), 1.89-1.83 (m, 4H), 1.30 (s, 9H). LCMS (M+H)=444.3.

reactant | (S)-methyl 2-(7-chloro-5-methyl-2-(5,6,7,8-tetrahydronaphthalen-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | 2.301 mmol, 888 mg | ClC1=C(C(=NC=2N1N=C(C2)C2=CC=1CCCCC1C=C2)C)[C@@H](C(=O)OC)O | C20H20ClN3O3
reactant | t-butyl acetate | 161 mmol, 21.76 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | perchloric acid | 6.90 mmol, 0.593 mL | Cl(=O)(=O)(=O)O | ClHO4
solvent | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-methyl 2-(tert-butoxy)-2-(7-chloro-5-methyl-2-(5,6,7,8-tetrahydronaphthalen-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetate | 1.663 mmol, 735 mg, 72.3% yield | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=NC=2N(C1Cl)N=C(C2)C2=CC=1CCCCC1C=C2)C | C24H28ClN3O3
